US07307075B2
4-[3-(4-Butylpiperidin-1-yl)propyl]7,8-difluoro-4H-benzo[1,4]oxazin-3-one (81MF2082x)
4-(3-Chloropropyl)-7,8-difluoro-4H-benzo[1,4]oxazin-3-one (81MF2082b) (0.16 g, 0.60 mmol), K2CO3 (0.17 g, 11.9 mmol), NaI (0.18 g, 11.9 mmol) and 4-butylpiperidine (0.09 g, 0.63 mmol) were mixed according to GP12. CC (SiO2; Heptane/EtOAc 10:1-4) gave the title compound (81MF2082x) (0.14 g, 65%). 1H NMR (CDCl3) δ 6.88-6.76 (m, 2H) 4.66 (s, 2H), 3.96 (t, J=7.2 Hz, 2H), 2.84 (d, J=11.2, 2H), 2.34 (t, J=6.8 Hz, 2H), 1.91-1.78 (m, 4H), 1.67 (d J=9.6 Hz, 2H), 1.30-1.15 (m, 9H); 13CNMR (CDCl3) δ 163.1, 147.4 (q, J=245.0 Hz, J=10.6 Hz), 140.1 (q, J=248.7 Hz, J=15.7 Hz), 135.4 (d, J=12.0 Hz), 126.5, 109.5 (d, J=18.4 Hz), 109.0 (q, J=7.6 Hz, J=3.8 Hz), 67.8, 55.8, 52,3, 40.1, 36.4, 35.9, 32.7, 29.1, 24.8, 23.0, 14.2.

reactant | 4-(3-Chloropropyl)-7,8-difluoro-4H-benzo[1,4]oxazin-3-one | 0.60 mmol, 0.16 g | ClCCCN1C(COC2=C1C=CC(=C2F)F)=O | C11H10ClF2NO2
reactant | K2CO3 | 11.9 mmol, 0.17 g | C(=O)([O-])[O-].[K+].[K+]
reactant | NaI | 11.9 mmol, 0.18 g | [Na+].[I-]
reactant | 4-butylpiperidine | 0.63 mmol, 0.09 g | C(CCC)C1CCNCC1 | C9H19N
solvent | Heptane EtOAc | CCCCCCC.CCOC(=O)C
product | 4-[3-(4-Butylpiperidin-1-yl)propyl]7,8-difluoro-4H-benzo[1,4]oxazin-3-one | 0.14 g, 65% | C(CCC)C1CCN(CC1)CCCN1C(COC2=C1C=CC(=C2F)F)=O | C20H28F2N2O2
